US07935830B2
Step C. N-Ethylcarbamate-5-allyloxy-6-iodo-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole
Allyl bromide (52 μL, 0.6 mmol) and DBU (65 μL, 0.6 mmol) were added to a solution of N-ethylcarbamate-5-hydroxy-6-iodo-8-ethyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole (116 mg, 0.3 mmol) in CH2Cl2 (3 mL), and stirred 2 hours at room temperature. The reaction solution was diluted with H2O and filtered through an Extrelut column, The column was washed with CH2Cl2 and the filtrate was concentrated. The crude product was purified via silica plug eluting with Hexanes/EtOAc (3/1, v/v) to afford 50 mg (39%-two steps) of the subtitle compound. MS calculated for C18H221NO3+H: 428, observed: 428.

reactant | Allyl bromide | 0.6 mmol, 52 μL | C(C=C)Br | C3H5Br
reactant | DBU | 0.6 mmol, 65 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | N-ethylcarbamate 5-hydroxy-6-iodo-8-ethyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | 0.3 mmol, 116 mg | C(C)NC([O-])=O.OC=1C(=CC=2C(C3C(CNC3)C2C1)CC)I
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | N-Ethylcarbamate 5-allyloxy-6-iodo-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | C(C)NC([O-])=O.C(C=C)OC=1C(=CC=2C(C3C(CNC3)C2C1)C)I | InChI=1S/C15H18INO.C3H7NO2/c1-3-4-18-15-6-11-10(5-14(15)16)9(2)12-7-17-8-13(11)12;1-2-4-3(5)6/h3,5-6,9,12-13,17H,1,4,7-8H2,2H3;4H,2H2,1H3,(H,5,6)/p-1
